US07935696B2
5-(4-Chlorophenyl)-N-(2-methyl-5-(methylcarbamoyl)phenyl)thiophene-2-carboxamide
The title compound (Example 186) was prepared by reacting 3-(5-(4-chlorophenyl)thiophene-2-carboxamido)-4-methylbenzoic acid C with methylamine using the method described in Example 128 to afford a white solid in 73% yield. HPLC Ret. Time=3.51 min, LCMS [M+H]+ 385.08.

reactant | 3-(5-(4-chlorophenyl)thiophene-2-carboxamido)-4-methylbenzoic acid | ClC1=CC=C(C=C1)C1=CC=C(S1)C(=O)NC=1C=C(C(=O)O)C=CC1C | C19H14ClNO3S
reactant | methylamine | CN | CH5N
product | 5-(4-Chlorophenyl)-N-(2-methyl-5-(methylcarbamoyl)phenyl)thiophene-2-carboxamide | 73% yield | ClC1=CC=C(C=C1)C1=CC=C(S1)C(=O)NC1=C(C=CC(=C1)C(NC)=O)C | C20H17ClN2O2S
